US08486952B2
N2-(4-(4-Chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4,N4-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
2-Chloro-7-(4-chlorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (98 mg, 0.318 mmol) was added to a solution of 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (71.1 mg, 0.318 mmol) in acetic acid (1.000 mL) and THF (1 mL). The reaction mixture was heated at 75° C. overnight. Partial conversion to the desired product was observed. The reaction was further heated at 120° C. for 6 h. The crude reaction mixture was purified by preparative HPLC. The appropriate fractions were evaporated to afford N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4,N4-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine, TFA salt (17.2 mg, 0.028 mmol, 8.70% yield). LC-MS (M+H)+=495.1. 1H NMR (500 MHz, CDCl3) δ ppm 11.80 (1H, s), 7.61-7.72 (1H, m), 7.34-7.42 (2H, m), 7.27-7.33 (2H, m), 7.21 (2H, d, J=8.5 Hz), 7.16 (1H, d, J=9.2 Hz), 7.06 (1H, d, J=1.5 Hz), 4.30-4.41 (1H, m), 3.82 (6H, s), 3.48 (1H, br. s.), 3.31-3.39 (2H, m), 3.18-3.27 (1H, m), 2.58-2.80 (2H, m), 2.14-2.29 (1H, m).

reactant | 2-Chloro-7-(4-chlorophenyl)-N,N-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.318 mmol, 98 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)N(C)C | C15H15Cl2N3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.318 mmol, 71.1 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
solvent | acetic acid | 1.000 mL | C(C)(=O)O | C2H4O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N2-(4-(4-Chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-7-(4-chlorophenyl)-N4,N4-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)Cl)N(C)C)OC | C25H24Cl2N6O
